US07253315B2
A 250 ml PFA vessel equipped with a stirrer was used. Water (100 g, 5.6 mol) was temperature conditioned to 60° C. within the vessel, following which C7F15COF (50 g, 0.120 mol; prepared by the method described in JP-A 8-231462) having a purity of 99.9 wt % was added dropwise under stirring in an attempt to form C7F15COOH by a hydrolysis reaction. However, a gel formed, which made stirring impossible.

reactant | Water | 5.6 mol, 100 g | O | H2O
reactant | C7F15COF | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C(=O)F | C8F16O
product | C7F15COOH | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C(=O)O | C8HF15O2
